US07847027B2
Preparation of Core-Shell Particle 3 (PE-3)
Another core-shell polymer, according to the present invention, was prepared by combining 200 g of SP-1 with 533 g of demineralized water and adjusting the pH to 10 with sodium hydroxide. The mixture was combined with 267 g of CPI-2 and stirred for 30 minutes. 59.1 g of trimethylamine (25% aq.) were added and allowed to stir for one hour. After one hour, the pH was raised to 12 and the mixture was vacuum distilled for 3 hours to remove residual trimethylamine.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | CPI-2 | 267 g | CCC(C)C(C(=O)NCCCCN)NC(=O)[C@@H]1[C@H](O1)C(=O)O | C14H25N3O5
reactant | trimethylamine | 59.1 g | CN(C)C | C3H9N
solvent | water | 533 g | O | H2O
product | PE-3 | C1CN(C2=CC=CC=C21)CCC3=CC=NC=C3 | C15H16N2
